US06426067B1
Preparation of Sodium 3,5-Disulfophenylthiourea Terminated Dendrimers
Trifluoroacetic acid (3 ml) was added to a stirred suspension of BHAlyslys2lys4lys8lys16DBL32 (300 mg; 0.02 mmol) in dry dichloromethane (3 ml) and the resulting solution stirred at room temperature under nitrogen for two hours and then concentrated. The residue was dissolved in water and the solution passed through a column of Amberlite IRA 401 (OH) and the filtrate concentrated to give a viscous oil (187 mg). The oil was dissolved in a 1:1 mixture of pyridine/water (8 ml) and solid sodium 3,5-disulfophenyl isothiocyanate (680 mg; 2 mmol) added. The resulting solution was heated at 53° C. for three hours under nitrogen. The solution was then concentrated to give a white solid residue. The crude product was purified by gel filtration (Sephadex LH20; water) to give BHAlyslys2lys4lys8lys16lys32 with 64 sodium 3,6-disulfophenylurea groups as a white fluffy solid.

reactant | sodium 3,5-disulfophenyl isothiocyanate | 2 mmol, 680 mg | S(=O)(=O)(O)C=1C=C(C=C(C1)S(=O)(=O)O)N=C=S.[Na]
reactant | pyridine water | 8 ml | N1=CC=CC=C1.O
product | Sodium 3,5-Disulfophenylthiourea | S(=O)(=O)(O)C=1C=C(C=C(C1)S(=O)(=O)O)NC(=S)N.[Na] | InChI=1S/C7H8N2O6S3.Na/c8-7(16)9-4-1-5(17(10,11)12)3-6(2-4)18(13,14)15;/h1-3H,(H3,8,9,16)(H,10,11,12)(H,13,14,15);
